US06376515B2
A mixture of N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]phenyl}[4-(2-cyanophenyl)phenyl]carboxamide (14 mg, 0.03 mmol, 1.0 equiv.), hydroxyamine hydrochloride (6.25 mg, 0.09 mmol, 3.0 equiv.) and triethyl amine (0.03 mL, 0.3 mmol, 10.0 equiv.) in ethanol (3 mL) was stirred at rt for 6 days, concentrated and HPLC (C18 reversed phase) eluting with 0% TFA in H2O/CH3CN to give N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]phenyl}{4-[2-((hydroxyamino)iminomethyl)phenyl]phenyl}carboxamide (4 mg, 27.5%). MS found for C26H20ClN5O3 (M+H)+: 486.

reactant | N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]phenyl}[4-(2-cyanophenyl)phenyl]carboxamide | 0.03 mmol, 14 mg, 1.0 equiv. | ClC=1C=CC(=NC1)NC(=O)C1=C(C=CC=C1)NC(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C26H17ClN4O2
reactant | hydroxyamine hydrochloride | 0.09 mmol, 6.25 mg, 3.0 equiv. | Cl.ON
reactant | triethyl amine | 0.3 mmol, 0.03 mL, 10.0 equiv. | C(C)N(CC)CC | C6H15N
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]phenyl}{4-[2-((hydroxyamino)iminomethyl)phenyl]phenyl}carboxamide | 4 mg, 27.5% | ClC=1C=CC(=NC1)NC(=O)C1=C(C=CC=C1)NC(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)C=NNO | C26H20ClN5O3
